US04080449
0.018 moles of sodium hydride is added slowly, with stirring, to a solution of 3.4 g. (0.016 moles) of 8-chloro-4-methyl-1,2,4,5-tetrahydro-3H-2-benzazepin-3-one in 60 ml. of dimethylformamide. The reaction mixture is heated to 80° C. for 15 minutes and then cooled in an ice bath. While cooling, 2.2 g. (0.018 moles) of ethoxyacetyl chloride are added dropwise and then the reaction mixture is gradually brought to a temperature of 80° C. and maintained at this temperature for 3 hours. The reaction mixture is then cooled, evaporated to dryness in vacuo and the residue extracted with chloroform. The organic solution is washed twice with water, dried over anhydrous sodium sulfate, filtered and then evaporated to dryness in vacuo. The residual solid is purified by chromatography on a silica column, using a mixture of benzene/ethanol (9:1 v/v) as eluent, and it is then recrystallized from 2-propanol. 2.5 g. (52% of theory) of 8-chloro-2-(ethoxyacetyl)-4-methyl-1,2,4,5-tetrahydro- 3H-2-benzazepin-3-one are obtained. M.P. 123°-124° C.

reactant | sodium hydride | 0.018 moles | [H-].[Na+]
reactant | 8-chloro-4-methyl-1,2,4,5-tetrahydro-3H-2-benzazepin-3-one | 0.016 moles | ClC1=CC2=C(CC(C(NC2)=O)C)C=C1 | C11H12ClNO
reactant | ethoxyacetyl chloride | 0.018 moles | C(C)OCC(=O)Cl | C4H7ClO2
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 8-chloro-2-(ethoxyacetyl)-4-methyl-1,2,4,5-tetrahydro- 3H-2-benzazepin-3-one | 52% | ClC1=CC2=C(CC(C(N(C2)C(COCC)=O)=O)C)C=C1 | C15H18ClNO3
